US07214690B2
To a solution of (±)-7-amino-3,4-dihydro-4-(2,2,2-trifluoroethyl)-3-(trifluoromethyl)-2H-1,4-benzoxazine (140 mg, 0.47 mmol) in 5 mL EtOAc was added trimethylacetyl chloride (0.085 mL, 0.70 mmol) and anhydrous pyridine (0.056 mL, 0.70 mmol). The solution was allowed to stir at rt for 12 h. The solution was then washed sequentially with saturated sodium bisulfate (2×10 mL), copper sulfate (10 mL) and brine (10 mL). The organic phase was dried with anhydrous magnesium sulfate, filtered and the solvent was evaporated under reduced pressure to yield an oil. The oil was purified via flash chromatography (7:3 hexanes:EtOAc) to afford 160 mg (89%) of (±)-3,4-dihydro-4-(2,2,2-trifluoroethyl)-3-(trifluoromethyl)-7-(trimethylpropionamido)-2H-1,4-benzoxazine. 1H NMR (CDCl3, 400 MHz) d 1.25 (s, 9H), 3.78 (sext, J=8.0 Hz, 1H), 3.88 (m, 1H), 4.02 (m, 1H), 4.22 (sext. J=8.3 Hz, 1H), 4.59 (d, J=11.6 Hz, 1H), 6.77 (d, J=8.8 Hz, 1H), 7.05 (dd, J=2.4 Hz, 8.8 Hz, 1H), 7.11 (d, J=2.44 Hz, 1H), 7.15 (s, 1H).

reactant | (±)-7-amino-3,4-dihydro-4-(2,2,2-trifluoroethyl)-3-(trifluoromethyl)-2H-1,4-benzoxazine | 0.47 mmol, 140 mg | NC1=CC2=C(N(C(CO2)C(F)(F)F)CC(F)(F)F)C=C1 | C11H10F6N2O
reactant | trimethylacetyl chloride | 0.70 mmol, 0.085 mL | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | pyridine | 0.70 mmol, 0.056 mL | N1=CC=CC=C1 | C5H5N
reactant | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | (±)-3,4-dihydro-4-(2,2,2-trifluoroethyl)-3-(trifluoromethyl)-7-(trimethylpropionamido)-2H-1,4-benzoxazine | 160 mg, 89% | FC(CN1C(COC2=C1C=CC(=C2)NC(CC(C)(C)C)=O)C(F)(F)F)(F)F | C17H20F6N2O2
